US08476434B2
To a mixture of 2-fluoro-3-pyridinecarboxylic acid (1.06 g, 7.50 mmol) and HATU (3.11 g, 8.18 mmol) in CHCl3 at ambient temperature under nitrogen was added n,n-diisopropylethylamine (2.38 ml, 13.6 mmol) via syringe. The mixture was allowed to stir for 5 min, at which point 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (2.00 g, 6.82 mmol) was added. The reaction was allowed to stir 16 h, resulting in the formation of a fine precipitate. The reaction was filtered, rinsing with 2× dichloromethane and the solid dried in vacuo to give 2-fluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)nicotinamide as a tan solid. MS m/z=417 [M+1]+. Calc'd for C22H17FN6O2: 416.41.

reactant | 2-fluoro-3-pyridinecarboxylic acid | 7.50 mmol, 1.06 g | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | HATU | 8.18 mmol, 3.11 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | n,n-diisopropylethylamine | 13.6 mmol, 2.38 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-(4-aminophenoxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 6.82 mmol, 2.00 g | NC1=CC=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1 | C16H15N5O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-fluoro-N-(4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)nicotinamide | FC1=C(C(=O)NC2=CC=C(C=C2)OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=CC=N1 | C22H17FN6O2
